US06056940
Synthesis of 1,2-bis2-(2-chloroacetamido)ethoxylethane
1,2-bis[2-(2-chloroacetamido)ethoxy]ethane was prepared as follows. To a mixture of 1,2-bis(2-aminoethoxy)ethane (1.5 g, 10 mmol) in dichloromethane (100 mL) and 1 M Na2CO3 (50 mL) cooled in an ice bath was added chloroacetyl chloride (2.6mL, 33 mmol) dropwise. After stirring for 10 minutes, the organic layer was separated and evaporated to give the title compound (2.6 g, eual to 92% yield). HLPC analysis revealed a single peak using ultraviolet (220 nm) absorbtion spectrometry.

reactant | 1,2-bis(2-aminoethoxy)ethane | 10 mmol, 1.5 g | NCCOCCOCCN | C6H16N2O2
reactant | chloroacetyl chloride | 33 mmol, 2.6mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | Na2CO3 | 1 M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 1,2-bis[2-(2-chloroacetamido)ethoxy]ethane | ClCC(=O)NCCOCCOCCNC(CCl)=O | C10H18Cl2N2O4
